US04271160
A mixture of 2.73 g of 3-phenyl-2-hydroxy-3-(2-methoxy-phenoxy)-propylamine in 50 ml of methylene chloride and 0.56 g of NaOH in 15 ml of water was stirred at 0° C. Under vigorous stirring dropwise addition was made to the mixture over 30 minutes, again at 0° C., of 1.58 g of chloroacetyl chloride in 2 ml of methylene chloride. After the addition, the stirring was continued at 0° C. for 30 minutes. The layers were separated and the aqueous phase extracted with CH2Cl2. The organic extracts were combined and washed with water, dried over Na2SO4 and evaporated to dryness. There was obtained 3.49 g of N-chloroacetyl-2-hydroxy-3-phenyl-3-(2-methoxy-phenoxy)propylamine (oil). Yield 100%.

reactant | 3-phenyl-2-hydroxy-3-(2-methoxy-phenoxy)-propylamine | 2.73 g | C1(=CC=CC=C1)C(C(CN)O)OC1=C(C=CC=C1)OC | C16H19NO3
reactant | NaOH | 0.56 g | [OH-].[Na+]
reactant | chloroacetyl chloride | 1.58 g | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | 15 ml | O | H2O
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | N-chloroacetyl-2-hydroxy-3-phenyl-3-(2-methoxy-phenoxy)propylamine | 3.49 g, Yield 100% | ClCC(=O)NCC(C(OC1=C(C=CC=C1)OC)C1=CC=CC=C1)O | C18H20ClNO4
